data/rdb19/train.csv
rxn,smiles,ea
503,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:20])([H:21])[H:22])([N:11]([C:12](=[O:13])[H:24])[H:23])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:1]([O:2][O:3][H:19])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:20])([H:21])[H:22])[N:11]([C:12](=[O:13])[H:24])[H:23])([H:17])[H:18])([H:14])([H:15])[H:16],23.148120758181904
3315,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14](=[C:15]([C:16]([H:26])([H:27])[H:28])[C:17](=[O:18])[O:19][C:20]([H:29])([H:30])[H:31])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:8])([H:9])[H:25])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],33.67333060433157
3533,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:10])([H:6])([H:7])[H:8].[H:9][C:18]([C:17]([H:23])([H:24])[H:25])([O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26],43.43362276960397
1682,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19][c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])([H:5])[H:27])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],25.46538576384773
3525,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:21]([O:20][C:18]([C:17]([H:23])([H:24])[H:25])=[O:19])([C:22]([H:27])[H:28])[H:26])([H:9])[H:10])([H:6])([H:7])[H:8],17.58741723751882
2581,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[C:23]([H:28])[H:29])[H:27])([H:24])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([H:9])[H:10])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][C:22]([O:21][C:20]([H:24])([H:25])[H:26])([C:23]([H:28])[H:29])[H:27],38.01674878789345
2352,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[C:11]([H:16])[H:17])[H:15])([H:12])([H:13])[H:14]>>[C:1]([C:2]([H:3])([H:4])[H:15])([H:5])([H:6])[H:7].[C:8]([O:9][C:10]=[C:11]([H:16])[H:17])([H:12])([H:13])[H:14],24.94709191052243
2794,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([C:23]([H:33])([H:34])[H:35])([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]([C:22]([N:24]([C:25](=[O:26])[H:37])[H:36])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[H:15][C:23]([H:33])([H:34])[H:35],75.32226355082821
2414,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:21])([H:22])[H:23])([N:12]([C:13](=[O:14])[H:25])[H:24])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1]([C:2]([H:3])([H:4])[H:25])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:21])([H:22])[H:23])([N:12]([C:13]=[O:14])[H:24])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17],17.18498905125307
796,[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([C:20](=[C:21]([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]([H:14])([H:15])([H:16])[H:31],76.56521838001208
194,[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]=[N:5][C:17]([N:16]([C:14]([C:13]([C:12]([H:19])([H:20])[H:21])([H:22])[H:23])([C:15]([H:25])([H:26])[H:27])[H:24])[H:28])([H:29])[O:18]1)([H:6])([H:7])[H:8]>>[C:1]([C:2]1([C:3]([H:9])([H:10])[H:11])[C:4]([H:6])=[N:5][C:17]([N:16]([C:14]([C:13]([C:12]([H:19])([H:20])[H:21])([H:22])[H:23])([C:15]([H:25])([H:26])[H:27])[H:24])[H:28])([H:29])[O:18]1)([H:7])[H:8],48.75611334003042
